US07648987B2
a) 1-(3-Benzyloxy-phenyl)-8-chloro-imidazo[1,5-a]pyrazine-3-carboxylic acid ethyl ester
A solution of N-[(3-benzyloxy-phenyl)-(3-chloro-pyrazin-2-yl)-methyl]-oxalamic acid ethyl ester (50 mg, 0.12 mmol) in POCl3 (2 mL) was heated to 55° C. for 17.5 h. Very little reaction occurred therefore DMF (3 drops) was added to reaction mixture and heated to 75° C. overnight. The brown reaction mixture was allowed to cool to rt, concentrated in vacuo and then quenched with 2M NH3 in i-PrOH at 0° C. until the pH was basic. The reaction mixture was concentrated in vacuo and the crude material was purified by chromatography on silica gel [eluting with 2% EtOAc in DCM], resulting in the title compound as an off-white solid; 1H NMR (CDCl3, 400 MHz) δ 1.48 (t, J=7.2 Hz, 3H), 4.56 (q, J=7.2 Hz, 2H), 5.13 (s, 2H), 7.05-7.09 (m, 1H), 7.22-7.29 (m, 2H), 7.29-7.47 (m, 6H), 7.67 (d, J=5.2 Hz, 1H), 9.15 (d, J=5.2 Hz, 1H); MS (ES+): m/z=408.07 (100) [MH+], HPLC: tR=3.88 min (MicromassZQ, polar—5 min).

reactant | N-[(3-benzyloxy-phenyl)-(3-chloro-pyrazin-2-yl)-methyl]-oxalamic acid ethyl ester | 0.12 mmol, 50 mg | C(C)OC(C(=O)NC(C1=NC=CN=C1Cl)C1=CC(=CC=C1)OCC1=CC=CC=C1)=O | C22H20ClN3O4
solvent | POCl3 | 2 mL | O=P(Cl)(Cl)Cl | Cl3OP
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
product | 1-(3-Benzyloxy-phenyl)-8-chloro-imidazo[1,5-a]pyrazine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=C2N1C=CN=C2Cl)C2=CC(=CC=C2)OCC2=CC=CC=C2 | C22H18ClN3O3
